US05322952
For example, (2S,4R)-1-p-nitrobenzyloxycarbonyl -4-methanesulfonyl-2-pyrrolidinethiocarboxylic acid is allowed to react with disodium hydrogenphosphate or triethylamine in methylene chloride or tetrahydrofuran, thereby to give (1S,4S)-5-p-nitrobenzyloxycarbonyl-2-thia-5-azabicyclo[2.2.1]heptan-3-one.

reactant | (2S,4R)-1-p-nitrobenzyloxycarbonyl -4-methanesulfonyl-2-pyrrolidinethiocarboxylic acid | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)S(=O)(=O)C)C(O)=S)C=C1 | C14H16N2O7S2
reactant | disodium hydrogenphosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (1S,4S)-5-p-nitrobenzyloxycarbonyl-2-thia-5-azabicyclo[2.2.1]heptan-3-one | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H]3C(S[C@H](C2)C3)=O)C=C1 | C13H12N2O5S
